US04766233
To a stirred mixture of 10.0 g (0.045 mole) of 2,4-dichloro-5-(1-methylethoxy)aniline in 200 mL of water was added 30 mL of concentrated hydrochloric acid. The resultant mixture was cooled to 0° C., and a solution of 3.13 g (0.45 mole) of sodium nitrite in 30 mL of water was added during 15 minutes. After complete addition, 30.0 g (0.35 mole) sodium acetate in 60 mL of water was added, and the resulting mixture was stirred at 0° C. for one hour. The cold reaction mixture was added portionwise to a stirred solution of 11.7 g (0.0477 mole) of malonyldiurethane [prepared by the method of Backes, et al., J. Chem. Soc., 350, (1921)] and 50.0 g (0.59 mole) of anhydrous sodium acetate in 1500 mL of water at 0° C. After complete addition the mixture was stirred at 0° C. for one hour, and the resulting precipitate was collected by filtration and washed with water. The filter cake was dissolved in a mixture of 250 mL of tetrahydrofuran and 250 mL of ethanol. To this solution was added 150 mL of a 10% aqueous potassium hydroxide solution. The resultant mixture was stirred for 0.5 hour and made acidic with 60 mL of concentrated hydrochloric acid. Most of the tetrahydrofuran was removed from the mixture by evaporation under reduced pressure to leave an aqueous residue. The residue was extracted with ethyl acetate, and the extract treated with decolorizing charcoal. The extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to leave 17.9 g of 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-1,2,4-triazine-3,5(2H,4H)-dione-6-carboxylic acid, Compound 11 in the tables.

reactant | 2,4-dichloro-5-(1-methylethoxy)aniline | 0.045 mole, 10.0 g | ClC1=C(N)C=C(C(=C1)Cl)OC(C)C | C9H11Cl2NO
reactant | hydrochloric acid | 30 mL | Cl | ClH
reactant | sodium nitrite | 0.45 mole, 3.13 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 0.35 mole, 30.0 g | C(C)(=O)[O-].[Na+]
reactant | malonyldiurethane | 0.0477 mole, 11.7 g | C(CC(=O)NC(=O)OCC)(=O)NC(=O)OCC | C9H14N2O6
reactant | sodium acetate | 0.59 mole, 50.0 g | C(C)(=O)[O-].[Na+]
solvent | water | 200 mL | O | H2O
solvent | water | 30 mL | O | H2O
solvent | water | 60 mL | O | H2O
solvent | water | 1500 mL | O | H2O
product | 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-1,2,4-triazine-3,5(2H,4H)-dione-6-carboxylic acid | 17.9 g | ClC1=C(C=C(C(=C1)Cl)OC(C)C)N1NC(NC(C1C(=O)O)=O)=O | C13H13Cl2N3O5
